US08252935B2
a) 4-Methyl-2-{5-[1-(4-trifluoromethoxy-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of compound 33b 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (60.8 mg, 0.136 mmol) in CH3CN (5 ml) was added 4-Trifluoromethoxybenzylbromide) (33 μl, 0.20 mmol) and diisopropylethylamine (47 μl, 0.27 mmol). The reaction was microwaved at 130° C. for 10 minutes, then diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product as a clear oil, (69.7 mg, 83%). Calcd for C34H37F6NO3 (M+H) 621.65, Found 622.3

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.136 mmol, 60.8 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 4-Trifluoromethoxybenzylbromide | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | diisopropylethylamine | 0.27 mmol, 47 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-2-{5-[1-(4-trifluoromethoxy-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | 69.7 mg, 83% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C34H37F6NO3
